US07220856B2
Preparation of 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(2-hydroxyethylamino)quinoline
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one (150 mg, 0.4 mmol), sodium hydride (15 mg, 0.6 mmol), N-phenyl(trifluoromethylsulfon)imide (208 mg, 0.56 mmol), and ethanolamine (100 μL, 1.65 mmol) are treated according to method E yielding the title product.

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one | 0.4 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
reactant | sodium hydride | 0.6 mmol, 15 mg | [H-].[Na+]
reactant | ethanolamine | 1.65 mmol, 100 μL | C(O)CN | C2H7NO
product | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(2-hydroxyethylamino)quinoline | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NCCO | C20H27ClN4O3
